Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
s/p assault

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ year old male who presents to ___ on ___ with a mild TBI.

He presented to the ED at ___ this morning after
reportedly being assaulted at approxikmately 0200.  He was
leaving a club and was punched in the back of the head, causing
him to fall face-first striking his chin. He does report LOC.  
He
was able to walk to a friend's house after waking, then walked 
to
the hospital for evaluation of headache and mouth pain.  

NCHCT at OS___ showed a small L temporal IPH; he was transferred 
to
___ ED for further evaluation. 

Mechanism of trauma: Assault, fall with head strike

 
Past Medical History:
denies
 
Social History:
___
Family History:
NC
 
Physical Exam:
GCS upon Neurosurgery Evaluation: 15
Exam:
Gen: WD/WN, in c-collar, lying on bed.  Appears uncomfortable. 
Strong odor of alcohol/marijuana.
HEENT: L forehead laceration
Neck: C-collar.  + tenderness.
Extrem: warm and well perfused

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4mm to
3mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

 
Pertinent Results:
MRI brain with and without contrast ___:
There is a 5 x 6 mm focus of susceptibility within the left 
frontoparietal 
operculum with internal T2 hypointensity and minimal surrounding 
FLAIR 
hyperintensity, corresponding to hyperdensity on prior CT.  
There is adjacent left frontal soft tissue swelling and 
hematoma. 
  
There is no abnormal enhancement or enhancing mass.  There is no 
other 
evidence of hemorrhage or infarction.  The ventricles are normal 
in size.  
There is mild mucosal thickening of bilateral maxillary sinuses 
with a small right ethmoid mucosal retention cyst.  The orbits 
appear unremarkable. 
  
IMPRESSION: 
1. Small rounded focus of hemorrhage within the left 
frontoparietal operculum corresponding to prior CT findings.  In 
the setting of trauma and given the adjacent soft tissue 
swelling, finding may represent intraparenchymal hemorrhage.  
Possibility of an underlying cavernoma is not entirely excluded. 

2. No other evidence of intraparenchymal hemorrhage or 
infarction. 

 
Brief Hospital Course:
Mr. ___ was admitted for monitoring to the Neurosurgery 
Service.  He was started on Keppra for seizure prophylaxis with 
a 7 day course.  Overnight he remained neurologically intact.  
He underwent MRI on ___ to evaluate for underlying mass or 
cavernoma as the shape of the hemorrhage on head CT was 
suspicious for underlying lesion.  MRI was negative for mass but 
could not exclude cavernoma and so plan is for follow up with 
outpatient imaging in 3 months.

At the time of discharge the patient was tolerating a regular 
diet, ambulating without difficulty, afebrile with stable vital 
signs.
 
Medications on Admission:
denies
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  LevETIRAcetam 500 mg PO BID Duration: 7 Days 
RX *levetiracetam [Keppra] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*12 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Temporal Contusion
Traumatic brain injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Traumatic Brain Injury

Activity
We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise for 4 weeks.
You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
You should avoid contact sports for 6 months. 

Medications
Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) for 4 weeks. 
       You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication for a total of 7 days from your injury. It is 
important that you take this medication consistently and on 
time. 
You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
You may have difficulty paying attention, concentrating, and 
remembering new information.
Emotional and/or behavioral difficulties are common. 
Feeling more tired, restlessness, irritability, and mood 
swings are also common.
Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
You were given information about headaches after TBI and the 
impact that TBI can have on your family.
If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:
Fever greater than 101.5 degrees Fahrenheit
Nausea and/or vomiting
Extreme sleepiness and not being able to stay awake
Severe headaches not relieved by pain relievers
Seizures
Any new problems with your vision or ability to speak
Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
Sudden numbness or weakness in the face, arm, or leg
Sudden confusion or trouble speaking or understanding
Sudden trouble walking, dizziness, or loss of balance or 
coordination
Sudden severe headaches with no known reason

 
Followup Instructions:
___